US07402680B2
1-Benzyl-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (1.19 g) was prepared from 1.55 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 850 μL of benzylamine, and 1.43 g of 1-chloro-4-(2-nitro-vinyl)-benzene, using a 1:1 mixture of EtOH/toluene as the solvent.

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 850 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-chloro-4-(2-nitro-vinyl)-benzene | 1.43 g | ClC1=CC=C(C=C1)C=C[N+](=O)[O-] | C8H6ClNO2
solvent | EtOH toluene | CCO.C1(=CC=CC=C1)C
product | 1-Benzyl-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 1.19 g | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)Cl | C20H19ClN2
